US04186135
87 g of 1-ethyl-2-aminomethyl pyrrolidine and 775 cm3 of methyl ethyl ketone were introduced into a balloon flask provided with an agitator and a thermometer and then, in portions, 155 g of 8-methoxy-1,4-benzodioxane-5-carbonyl chloride was added, with the temperature being maintained at from 5°-10° C. After agitation the mixture was dissolved with 1,500 cm3 of water and then the methyl ethyl ketone was distilled. The remaining solution was filtered and then treated with sodium hydroxide. The oil was decanted and then extracted with methylene chloride. The solution was dried on potassium carbonate and then the methylene chloride was distilled under vacuum. 224.5 g of N-(1-ethyl-2-pyrrolidylmethyl)-8-methoxy-1,4-benzodioxane-5-carboxamide was produced. 197.5 g of the base produced was dissolved in 760 cm3 of absolute alcohol, and then 67 g of oxalic acid in solution in 195 cm3 of absolute alcohol was added. The crystals formed were dried off, washed with absolute alcohol and then dried. 208.5 g of N-(1-ethyl-2-pyrrolidylmethyl)-8-methoxy-1,4-benzodioxane-5-carboxamide oxalate was produced (M.P. 129°-130° C.; yield: 82%).

reactant | 1-ethyl-2-aminomethyl pyrrolidine | 87 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | methyl ethyl ketone | 775 cm3 | C(C)C(=O)C | C4H8O
reactant | 8-methoxy-1,4-benzodioxane-5-carbonyl chloride | 155 g | COC1=CC=C(C2=C1OCCO2)C(=O)Cl | C10H9ClO4
solvent | water | 1,500 cm3 | O | H2O
product | N-(1-ethyl-2-pyrrolidylmethyl)-8-methoxy-1,4-benzodioxane-5-carboxamide | 224.5 g | C(C)N1C(CCC1)CNC(=O)C1=CC=C(C=2OCCOC21)OC | C17H24N2O4
